Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Dilantin / lamotrigine
 
Attending: ___
 
Chief Complaint:
episodes of unresponsiveness, daytime fatigue and memory loss
 
Major Surgical or Invasive Procedure:
Lumbar Puncture
 
History of Present Illness:
Ms. ___ is a pleasant ___ woman with newly
diagnosed absence seizures ___, Dr. ___, B12
deficiency, "suspicious thyroid nodules," bilateral PE on
apixaban who presents for evaluation of episodes of
unresponsiveness, daytime fatigue and memory loss. 

Pt recalls first seizure in ___, which was witnessed by
her husband. While ___, she suddenly went blank and
unresponsive, staring ahead. She denies any specific aura or
other symptoms before the seizure. Denies odd smell, rising
sensation in her abdomen, or feeling of de ___. This
unresponsiveness lasted for ___ minutes. Her husband denies any
shaking, tongue biting, incontinence or falling. After 2 minutes
she came back to but was confused for several hours. Patient
denies any childhood seizures, family history of seizures, head
trauma or infections. She presented to OSH where a workup
included EEG and CT which were normal. An MRI demonstrated
microvascular disease but was otherwise unremarkable. She was
started on aspirin and Dilantin, which was quickly switched to
___ 500mg BID after giving her hives by Dr. ___. She does
not recall two subsequent episodes that occurred but were
witnessed leading to her ___ being increased to 1000mg in the
morning and 500mg in the evening. 

Since starting the ___, patient endorses increased fatigue.
She feels more sleepy and wants to stay on the couch. Her 
husband
notes she's constantly closing her eyes when on the couch, but
not sleeping. She feels much better when around her friends and
family. She notes since ___ she started feeling more exhausted
and less interested in her daily work which lead to her retiring
from her home business of ___, but the fatigue has been
worst since starting the ___. 

She did not have any additional episodes since ___ until
this last episode on ___. She had a UTI so went with
some friends to drop off a urine sample at a health ___
culture. She recalls being picked up from the ___ center 
after
an appointment but did not remember walking across the lawn,
opening the door, or walking into her home. She does recall
hanging her coat. Her friends witnessed the episode said she was
unresponsive for 5 minutes and then confused for the next ___
minutes. No rhythmic shaking, stiffening,
incontinence, tongue biting, aura, lip smacking or other
automatisms, or post-ictal weakness. She did not fall.After she
became anxious asking what had happened. Her neurologist Dr.
___ her ___ to 1000 mg BID from 500/750mg BID. 

Of note, per husband she would have these brief moments of
unresponsiveness lasting ___ seconds. She would immediately
snap back to herself and often find him looking at her funny. 
She
would immediately ask if something happened and if she spaced 
out
again. Per husband, this seems to happen daily, though he does
not know how many times per day because he is at work and she
would be home alone. 

In addition to these episodes, patient has had tremor in right
hand since before ___. The tremor is only at rest and
stops when she looks at it. Denies any falls. Still able to
perform all ADLs. Has had a decreased sense of smell. In sleep, 
she will sometimes talk, throw her arms around, grit her teeth,
or laugh. She has chronic constipation. Denies being unable to
turn in bed or freezing up at night. 

Pt denies any changes in her memory. The family recalls that
since ___, patient has frequently asked questions not 
recalling
events from the previous night. During ___ time, she did
not remember the place they get the tree, which they go to ever
year. She has forgotten names of familiar places, until arriving
at these places. Her family notes she requires more list to get
things done. A MOCA performed in ___ noted a score of 
___.
MRI brain showed multiple white matter changes. 
 
Past Medical History:
Reported new onset absence seizures ___ (Dr. ___
- Bilateral PE ___, asymptomatic, plan for Eliquis for 6
months (per heme, provoked ___ decrease in physical activity)
- Elevated TSH s/p thyroidectomy ___. Suspicious thyroid 
nodules
on US ___, s/p FNA, atypia of uncertain significance, plan
for repeat FNA in 3 mos
- HSV on L hand (recurrent)
- Vitamin D deficiency 
- Severe hearing loss s/p hearing aids ___
- basal cell carcinoma R lateral canthus ___, upper back ___,
right eyebrow ___, left forehead ___, left temple ___, right
cheek ___
- Memory problems
- Left hand tremor
- Ischemic white matter changes on MRI ___
- R breast mass s/p biopsy ___ with benign parenchyma
- Low B12
- UTI
- ___ incidentaloma lung nodules 2 and 4mm RLL, old 
calcified
granulomatous disease
- hiatal hernia
- GERD
 
Social History:
___
Family History:
No history of seizures 
- Mother: dementia passed ___
- Father: Lung cancer passed ___

 
Physical Exam:
Admission Exam: 

Physical Exam: 
 Vitals: T: 98 HR: 87 BP: 133/76 RR: 16 99%RA
 HEENT: sclera iacteric  
 Cardiac: warm and well perfumed
 Lungs:  no work of breathing 
 Abdomen: nondistended
 Extremities: no edema

Neurological:
- MS: Patient alert and oriented to hospital and date. 
Attentive,
able to do MYOB without difficulty. Speech is fluent with full
sentences, intact repetition, and intact verbal comprehension.
Naming intact. No paraphasias. No dysarthria. Normal prosody.
Able to register 3 objects and recall ___ at 5 minutes. + 
apraxia
(incorrect hammering of nail and buttering bread). No evidence 
of
hemineglect. No left-right confusion.  Able to follow both
midline and appendicular commands. Calculated 1.75$ = 7 
quarters,
fund of knowledge appropriate, abstraction appropriate. Able to
perform Luria sequence bilaterally.

- CN: 
II- visual field full, PERRL
III/IV/VI-EOMI, no ptosis, no saccadic breakdown
V: facial sensation intact to light touch
VII: facial strength intact and symmetric without droop
VIII: decreased hearing to finger rub on right
IX,X : palate elevates midline
XII: tongue protrudes midline 

- Motor: Normal strength. No pronator drift. Pill rolling tremor
in right hand at rest and dissipates with movement. No postural
tremor. No action tremor or voice tremor. Tone normal at rest 
but
increased tone on right with facilitation. No asterixis. No
micrographia or hypophonia. Decreased blinking. Mild slowing on
finger tapping bilaterally but no decrease in size of finger
taps. 

 [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
  [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
L   5     5     5     5     5    5     5     5     5    5 
R   5     5     5     5     5    5     5     5     5    5
   
- Sensory:  Light touch, vibration, and proprioception intact 
throughout. 

- Reflexes: +palmomental, +glabellar. No grasp reflex.
    
     [Bic] [Tri] [___] [Quad] [Gastroc]
   L  2+    2+     2+      2+       2+
   R  2+    2+     2+      2+       2+

- Coordination: Intact to FNF. No truncal ataxia. 

- Gait: unable to tandem easily, narrow based, steady

Discharge Exam: 

Physical Exam: 
Vitals: T: 96.1 (tmax 98.6) HR: ___ BP: 97/60-139/82 RR: ___ 
99%RA
 HEENT: sclera anicteric  
 Cardiac: warm and well perfumed
 Lungs:  no work of breathing 
 Abdomen: nondistended, nontendern
 Extremities: no edema

Neurological:
Mental status: Awake and smiling. Patient is able to coherently 
express her concerns. Fluent, no errors in language production. 
Follows commands but perseverates on tasks. 

Cranial nerves: 
Pupils equal round and reactive 4-2mm. Limited upgaze, other 
extraocular movements intact, full with some difficulty with 
convergence. Several beats of nystagmus to the right. Hypometric 
saccades with vertical and lateral gaze. Facial sensation intact 
to light touch. Face musculature symmetric with mildly 
asymmetric smile with droop on the left. Palate elevates 
midline. Tongue protrudes midline

Motor: Jaw tremor present. Full strength throughout. Mild 
pronation of the left upper extremity.  RUE with resting pill 
rolling tremor, rigidity and cogwheeling with distraction. LUE 
tone normal, with mild intention tremor. RLE tone increased 
compared to LLE. Overflow movements with tremor in left foot 
with activity of upper extremities. Mild slowing on finger 
tapping with left hand and decrease in amplitude of finger taps 
on right hand with entraining to tremor frequency. 

Reflexes: 
Positive glabellar sign, positive snout reflex, no jaw jerk. One 
beat of clonus on right ankle. 
     [Bic] [Tri] [___] [Quad] [Gastroc]
 L   2+    2+     2+      2+       2+
 R  2+    2+     2+      2+       2+

Coordination: FTN with mild intention tremor bilaterally

Gait: unable to tandem easily, narrow based, steady 

 
Pertinent Results:
___ 04:45AM BLOOD WBC-6.3 RBC-4.11 Hgb-12.5 Hct-38.2 MCV-93 
MCH-30.4 MCHC-32.7 RDW-12.7 RDWSD-43.1 Plt ___
___ 04:45AM BLOOD Glucose-83 UreaN-17 Creat-0.6 Na-143 
K-4.2 Cl-106 HCO3-25 AnGap-12
___ 01:44PM BLOOD ALT-16 AST-37 AlkPhos-60 TotBili-0.4
___ 04:45AM BLOOD Calcium-8.9 Phos-4.6* Mg-2.3
___ 10:20AM BLOOD %HbA1c-5.6 eAG-114
___ 10:20AM BLOOD Triglyc-151* HDL-43 CHOL/HD-4.1 
LDLcalc-105
___ 10:20AM BLOOD CRP-0.5
___ 10:20AM BLOOD SED RATE-Test 2
     
___ 03:01PM CEREBROSPINAL FLUID (CSF) TNC-1 RBC-0 Polys-0 
___ ___ 03:01PM CEREBROSPINAL FLUID (CSF) TotProt-28 Glucose-74
___ 03:01PM CEREBROSPINAL FLUID (CSF) ADMARK TAU/A BETA 
42-PND
 
Brief Hospital Course:
Ms. ___ is a ___ woman with bilateral PEs on eloquis, focal 
seizures with impaired awareness (staring, unresponsiveness, 
oral automatisms and post ictal confusion) for the past year 
that have happened ___ times, daily brief episodes of 
unresponsiveness, subacute on chronic memory changes for the 
past ___ years, and unilateral Parkinsonian features for several 
years who was admitted for diagnostic work up, seizure 
characterization and seizure control. 

Late onset focal epilepsy likely developed in the setting of 
underlying white matter disease due to severe small vessel 
disease despite no vascular risk factors (normal HgA1c, slightly 
elevated triglycerides, normal LDL). Her daily episodes of brief 
unresponsiveness were thought to be more likely a medication 
side effect, inattention, or dementia rather than epileptic 
seizures. EEG showed right temporal sharp waves that are some 
times periodic and rare left temporal sharp waves. 

Subacute on chronic memory impairments are likely related to 
___ disease dementia. She has had a 1 point decrease in 
her MOCA in 2 months ___ during this admission, ___ in 
___. She has motor symptoms in addition to 
constipation, anosmia, and suspected REM sleep disorder which 
also are consistent with ___ disease. Patient had been 
afebrile and there has been no acute deterioration in mental 
status to suggest an autoimmune encephalitis or focal 
encephalitity. CRP and ESR were normal. Eliquis was held during 
admission and an LP was performed. There was no CSF pleocytosis 
so vasculitis is unlikely. Other CSF labs were unremarkable with 
normal protein, glucose and negative gram stain. Tau and A beta 
protein pending from CSF at time of discharge. Her memory 
changes may be related to her focal epilepsy or underlying 
dementia but given the cognitive side effects from ___ and 
inadequate seizure control, this medication was stopped and 
lacosamide was started. Lamictal as also stopped due to rash. 
Patient felt more alert and awake after ___ was stopped. 

Eliquis was restarted prior to discharge.

Transitional Issues
[ ] recommend initiation of sinemet as trial for ___ 
disease
[ ] recommend donepezil trial for cognition and memory 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LevETIRAcetam 1000 mg PO BID 
2. Apixaban 5 mg PO BID 

 
Discharge Medications:
1.  LACOSamide 200 mg PO BID 
RX *lacosamide [Vimpat] 200 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*3 
2.  Apixaban 5 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Focal epilepsy 
Suspected ___ Disease 

Note that the discharge procedure, full examination and 
addressing all of the patient's questions and concerns took over 
30 min
 
Discharge Condition:
Patient was alert and oriented. She had a pill rolling tremor 
with the right upper extremity, decreased blinking, mild cog 
wheel rigidity right hand and spastic catch. She had frontal 
release signs including glabellar, snout and palmomental. She 
was able to ambulate independently. 

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ for evaluation of your seizures. You 
were monitored with an EEG to help characterize your seizures. 
The EEG showed abnormal discharges consistent with epilepsy. Due 
to medication side effects we stopped your lamotrigine 
(lamictal) and levetiracitam (___) and started lacosamide 
(vimpat). You had no seizures captured on EEG. 

We performed a lumbar puncture which did not show any 
inflammation. Now that the procedure is complete you can 
continue taking the apixiban (eliquis) as before. 

You should continue taking all of your medications as 
prescribed, and should follow up with your neurologist after 
being discharged. 

Please take lacosamide 200 mg twice a day.

Your symptoms of tremor, decreased facial expression, 
constipation, and slow thinking are likely due to ___ 
disease. You should discuss starting a medication called 
"sinemet" with your outpatient neurologist. 

Because you had seizures, you cannot drive for at least 6 
months. You need to be evaluated by a neurologist prior to 
driving again. Furthermore, seizures can be very dangerous. For 
this reason, it is important to not swim without a lifeguard 
present, avoid heights, and do not lock the door when you are 
bathing in case you have a seizure. 

It was a pleasure taking care of you, 

Enjoy your trip to ___. 

Your ___ neurology team
 
Followup Instructions:
___